US07939521B2
To a solution of 2-(3-hydroxyphenyl)propionitrile (0.118 g, 0.80 mmol), prepared as above described, in dry CH2Cl2 (6 mL were sequentially added, molecular sieves (4 Å), CuOAc (0.145 mg, 0.80 mmol) and pyridine (0.33 mL, 4.0 mmol). After stirring 20 min commercial 2-methoxyphenylboronic acid (0.243 g 1.60 mmol) was added. The reaction mixture was stirred overnight at room temperature. The reaction mixture was cooled to 0° C., 0.5N HCl added and the organic phase washed (3×10 mL) with 0.5N HCl. After drying over Na2SO4 and solvent evaporation under reduced pressure a residue was obtained that, after flash chromatography (eluent mixture n-hexane/EtOAc 9:1), afforded 2-{3-[(2-methoxy)phenoxy)phenyl]propionitrile as pale yellow oil (0.172 g, 0.68 mmol). Yield 85%.

reactant | 2-(3-hydroxyphenyl)propionitrile | 0.80 mmol, 0.118 g | OC=1C=C(C=CC1)C(C#N)C | C9H9NO
reactant | pyridine | 4.0 mmol, 0.33 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxyphenylboronic acid | 1.60 mmol, 0.243 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | HCl | 0.5N | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{3-[(2-methoxy)phenoxy)phenyl]propionitrile | 0.68 mmol, 0.172 g, Yield 85% | COC1=C(OC=2C=C(C=CC2)C(C#N)C)C=CC=C1 | C16H15NO2
